US08835428B2
Step 3: Methyl 2-(3-(4-aminophenyl)isoxazole-5-carboxamido)acrylate
Methyl 2-(3-(4-nitrophenyl)isoxazole-5-carboxamido)acrylate (1.2 g, 3.78) was dissolved in EtOH (20 ml), THF (8 ml) and water (8 ml). Then ammonium chloride (601 mg, 11.34 mmol)) and iron (529 mg, 9.45) were added and refluxed at 80° C. for 1.5 hours. Reaction mixture was cooled and filtered through celite and solvent was removed under reduced pressure to get dark brown residue. Residue was taken in water and extracted with EtOAc. The organic layer was separated, dried over Na2SO4 and concentrated to get dark brown residue, which was purified by column chromatography using EtOAc and petroleum ether to yield 200 mg (18%) of the title compound. MS: ES (+): m/z 288 (M+1); 1HNMR (DMSO-d6, 300 MHz) δ: 10.115 (s, 1H), 7.577 (d, 2H), 7.558 (s, 1H), 6.640 (d, 2H), 6.011 (s, 1H), 5.873 (s, 1H), 5.642 (s, 2H), 3.753 (s, 3H).

reactant | Methyl 2-(3-(4-nitrophenyl)isoxazole-5-carboxamido)acrylate | 1.2 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)=C | C14H11N3O6
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | ammonium chloride | 11.34 mmol, 601 mg | [Cl-].[NH4+]
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | water | O | H2O
catalyst | iron | 529 mg | [Fe] | Fe
solvent | water | 8 ml | O | H2O
product | Methyl 2-(3-(4-aminophenyl)isoxazole-5-carboxamido)acrylate | 200 mg, 18% | NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)=C | C14H13N3O4
